US06967204B2
Oxalyl chloride (10 ml, 115 mmol) was added dropwise to a suspension of 5-isobutyl-4-nitro-1H-pyrazol-3-carboxylic acid (5.6 g, 26 mmol) in dichloromethane (70 ml) containing dimethylformamide (0.1 ml) under nitrogen at 0° C. The reaction was stirred at 0° C. for 0.5 hours, allowed to warm to room temperature and stirred for a further 2 hours. The solvent was removed under reduced pressure, the residue was azeotroped with dichloromethane (3×50 ml) and the residue was dissolved in toluene (100 ml). Ammonia gas was bubbled into the solution for 2 hours and the reaction was stirred under nitrogen at room temperature for 18 hours, concentrated under reduced pressure and the residue was suspended in methanol (250 ml). After filtration, the filtrates were concentrated under reduced pressure, the residue was dissolved in ethyl acetate (400 ml) and washed with water (50 ml). The organic phase was filtered, the filtrate was dried over MgSO4 and concentrated under reduced pressure. The filtered solid and residue from the filtrates were combined to give 5-isobutyl-4-nitro-1H-pyrazol-3-carboxylic acid amide (4.8 g) as an off-white solid. 1H NMR (400 MHz, DMSO-D6): δ=13.61-13.81 (1H, brs), 7.80-7.96 (1H, brs), 7.50-7.66 (1H, brs), 2.70-2.76 (2H, d), 1.90-2.01 (1H, m), 0.83-0.88 (6H, d) ppm. LRMS (electrospray): m/z [M+Na]+ 235, [2M+Na]+ 447, [M−H]+ 211, [2M−H]+ 423. Anal. Found C, 45.12; H, 5.68; N, 26.31. C8H12N4O3 requires C, 45.28; H, 5.70; N, 26.40%.

reactant | Oxalyl chloride | 115 mmol, 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-isobutyl-4-nitro-1H-pyrazol-3-carboxylic acid | 26 mmol, 5.6 g | C(C(C)C)C1=C(C(=NN1)C(=O)O)[N+](=O)[O-] | C8H11N3O4
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 5-isobutyl-4-nitro-1H-pyrazol-3-carboxylic acid amide | 4.8 g | C(C(C)C)C1=C(C(=NN1)C(=O)N)[N+](=O)[O-] | C8H12N4O3
